US07691869B2
To a solution of the title D compound of Example 1, 2-{5-amino-2-(furan-2-yl)-7H-pyrrolo[3,2-e][1,2,4]triazolo[1,5-c]pyrimidin-7-yl}ethyl methanesulfonate (0.06 g, 0.165 mmol) in dry DMF (5 mL), the title A compound, (2,4-difluorophenyl)piperazin-1-yl-propanone hydrochloride (0.33 mmol) and 0.06 mL of DIEA are added, and the solution is stirred at 100° C. for 5 h. The reaction mixture is cooled to RT, and the solvent is removed under reduced pressure. To the residue, acetonitrile is added and the solution is stirred at 60° C. for 0.5 h. The solution is then cooled to RT, and the resulting solids are collected by filtration to give 1-(4-(2-(5-amino-2-(furan-2-yl)-7H-pyrrolo[3,2-e][1,2,4]triazolo[1,5-c]pyrimidin-7-yl)ethyl)piperazin-1-yl)-3-(2,4-difluorophenyl)propan-1-one: LC/MS (M+1=521.2). 1H NMR (DMSO-d6, 400 MHz), δ 2.40 (m, 4H), 2.58 (t, 2H, J=7.2 Hz), 2.68 (t, 2H, J=6.4 Hz), 2.79 (t, 2H, J=7.2 Hz), 3.37 (m, 2H), 3.41 (m, 2H), 4.25 (t, 2H, J=6.4 Hz), 6.59 (d, 1H, J=3.2 Hz), 6.71 (m, 1H), 6.99 (dt, 1H, J=8.4 Hz and 2.0 Hz), 7.15 (m, 2H), 7.18 (d, 1H, J=3.6 Hz), 7.36 (m, 1H), 7.49 (br s, 2H, NH2), 7.91 (s, 1H). Anal calculated for (C26H26F2N8O2+⅓H2O): C, 59.31; H, 5.10; F, 7.22; N, 21.28; 0, 7.09. Found C, 59.16; H, 4.81; N, 20.98.

reactant | 2-{5-amino-2-(furan-2-yl)-7H-pyrrolo[3,2-e][1,2,4]triazolo[1,5-c]pyrimidin-7-yl}ethyl methanesulfonate | 0.165 mmol, 0.06 g | CS(=O)(=O)OCCN1C=CC=2C=3N(C(=NC21)N)N=C(N3)C=3OC=CC3 | C14H14N6O4S
reactant | (2,4-difluorophenyl)piperazin-1-yl-propanone hydrochloride | 0.33 mmol | Cl.FC1=C(C=CC(=C1)F)C(C(C)=O)N1CCNCC1
reactant | DIEA | 0.06 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | DMF | 5 mL | CN(C)C=O | C3H7NO
product | 1-(4-(2-(5-amino-2-(furan-2-yl)-7H-pyrrolo[3,2-e][1,2,4]triazolo[1,5-c]pyrimidin-7-yl)ethyl)piperazin-1-yl)-3-(2,4-difluorophenyl)propan-1-one | NC1=NC2=C(C=3N1N=C(N3)C=3OC=CC3)C=CN2CCN2CCN(CC2)C(CCC2=C(C=C(C=C2)F)F)=O | C26H26F2N8O2
